US08389536B2
Step 1: (5-Phenylethynyl-pyridin-2-yl)-methanol
The title compound, light brown solid, MS: m/e=210.2 (M+H+), can be prepared in accordance with the general method of example 1, step 1 from (5-bromopyridin-2-yl)methanol and phenylacetylene.

reactant | (5-bromopyridin-2-yl)methanol | BrC=1C=CC(=NC1)CO | C6H6BrNO
reactant | phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
product | (5-Phenylethynyl-pyridin-2-yl)-methanol | C1(=CC=CC=C1)C#CC=1C=CC(=NC1)CO | C14H11NO
